### PR TITLE
feat(`Algebra/Group/Prod`): Add API for inclusion and projection maps from and to the product of units.

### PR DESCRIPTION
**Pull request by wrenna-robson**
Adds API for inclusion and projection maps from and to the product of units.
---

[Open in Gitpod](https://gitpod.io/from-referrer/)

### CODE REVIEW

File: Mathlib/Algebra/Group/Prod.lean [hunk 1]
```diff
@@ -574,38 +574,89 @@ def prodUnique [Unique N] : M × N ≃* M :=
...
+@[to_additive (attr := simp)]
+theorem snd_comp_inr : snd.comp (inr (M := M)) = MonoidHom.id Nˣ := rfl
+@[to_additive (attr := simp)]
+theorem snd_inr (u : Nˣ) : snd (inr (M := M) u) = u := rfl
+
+/-- A map from the product of the units of two monoids to the units of their product. -/
+@[to_additive prod "A map from the product of the additive units of two
+    additive monoids to the additive units of their product."]
+def prod : Mˣ × Nˣ →* (M × N)ˣ :=
+  MonoidHom.toHomUnits (MonoidHom.prodMap (Units.coeHom M) (Units.coeHom N))
```
Comment (eric-wieser) [inline Mathlib/Algebra/Group/Prod.lean:626]: This construction is a nice find!

File: Mathlib/Algebra/Group/Prod.lean [hunk 2]
```diff
@@ -574,38 +574,89 @@ def prodUnique [Unique N] : M × N ≃* M :=
...
-  invFun u := ⟨(u.1, u.2), (↑u.1⁻¹, ↑u.2⁻¹), by simp, by simp⟩
-  left_inv u := by
-    simp only [MonoidHom.prod_apply, Units.coe_map, MonoidHom.coe_fst, MonoidHom.coe_snd,
-      Prod.mk.eta, Units.coe_map_inv, Units.mk_val]
-  right_inv := fun ⟨u₁, u₂⟩ => by
-    simp only [Units.map, MonoidHom.coe_fst, Units.inv_eq_val_inv,
-      MonoidHom.coe_snd, MonoidHom.prod_apply, Prod.mk.injEq]
-    exact ⟨rfl, rfl⟩
+  toFun := fst.prod snd
+  invFun := prod
```
Comment (pechersky) [inline Mathlib/Algebra/Group/Prod.lean:655]: Can you please add the simp lemma that `prodUnits.symm.toMonoidHom = Units.prod`?

Which also helps me see, you changed the namespace for `prodUnits`.

Comment (linesthatinterlace) [reply Mathlib/Algebra/Group/Prod.lean:655]: Oh, yes. Should I put it back in `MulEquiv`?

Comment (linesthatinterlace) [reply Mathlib/Algebra/Group/Prod.lean:655]: We seem to often have Units-related Equivs in `Units`, e.g. `Units.mapEquiv`.

Comment (pechersky) [reply Mathlib/Algebra/Group/Prod.lean:655]: Makes sense, just noting the API surface change (perhaps a deprecation?)

Comment (pechersky) [reply Mathlib/Algebra/Group/Prod.lean:655]: It's also why you had a build failure:
```
error: /home/lean/actions-runner/_work/mathlib4/mathlib4/Mathlib/Data/Nat/Totient.lean:131:26: unknown constant 'MulEquiv.prodUnits'
```

**Comment by wrenna-robson** [comment]
Making this WIP for now while I look at improving some other things lower in the hierarchy.

**Comment by wrenna-robson** [comment]
This PR has been migrated to a fork-based workflow: https://github.com/leanprover-community/mathlib4/pull/26010
